US06087380
1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 25d from 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide and methanolic hydrochloric acid, methanol and ammonium carbonate. Yield: 78% of theory, C26H27N7O3 (485.6) Rf value: 0.31 (silica gel; dichloromethane/methanol=5:1) ##EQU43##

reactant | 1-methyl-2-[N-(4-cyanophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OC | C26H24N6O3
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | CO | CH4O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
solvent | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(4-amidinophenyl)-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-methoxycarbonylethyl)-amide-hydrochloride | Yield: 78% | Cl.N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CNC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OC | InChI=1S/C26H27N7O3.ClH/c1-32-21-11-8-18(26(35)33(14-12-24(34)36-2)22-5-3-4-13-29-22)15-20(21)31-23(32)16-30-19-9-6-17(7-10-19)25(27)28;/h3-11,13,15,30H,12,14,16H2,1-2H3,(H3,27,28);1H
